US05597848
Methyl 4-[4-[3-(4-Butylphenyl)-1-hydroxypropyl]phenyl]butyrate
To a solution of 4.40 g of methyl 4-[4-(4-butylcinnamoyl)phenyl]butyrate in 44 ml of methanol, 0.24 g of 10% palladium on carbon was added, and hydrogenation was carried out at an ordinary temperature and under ordinary pressure for 3.5 hours. After the catalyst was removed by filtration, 0.27 g of sodium borohydride was added to the filtrate under ice-cooling, and then stirring was continued at room temperature for 2 hours. After the reaction solvent was removed under reduced pressure, the residue was added with water and extracted with ether. The ether layer was washed with water, dried, and then the solvent was removed under reduced pressure to yield 4.34 g of colorless oil.

reactant | methyl 4-[4-(4-butylcinnamoyl)phenyl]butyrate | 4.40 g | C(CCC)C1=CC=C(C=CC(=O)C2=CC=C(C=C2)CCCC(=O)OC)C=C1 | C24H28O3
solvent | methanol | 44 ml | CO | CH4O
catalyst | palladium on carbon | 0.24 g | [Pd] | Pd
product | Methyl 4-[4-[3-(4-Butylphenyl)-1-hydroxypropyl]phenyl]butyrate | 4.34 g | C(CCC)C1=CC=C(C=C1)CCC(O)C1=CC=C(C=C1)CCCC(=O)OC | C24H32O3
